US08937150B2
4-bromo-3-chloro-2-nitroaniline
3-Chloro-2-nitroaniline (5.00 g, 29.0 mmol) was dissolved in glacial acetic Acid (258 mL). N-Bromosuccinimide (5.06 g, 28.4 mmol) was added and the resulting mixture was refluxed for 1 hour. The reaction was cooled to room temperature and poured into water to give a precipitate that was filtered, rinsed with water and dried to constant weight to give the title compound (4.78 g, 67%). 1H NMR (400 MHz, CDCL3) δ ppm 7.46 (d, J=9.0, 1H), 6.64 (d, J=9.0, 1H), 4.74 (s, 2H).

reactant | 3-Chloro-2-nitroaniline | 29.0 mmol, 5.00 g | ClC=1C(=C(N)C=CC1)[N+](=O)[O-] | C6H5ClN2O2
reactant | N-Bromosuccinimide | 28.4 mmol, 5.06 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | O | H2O
solvent | acetic Acid | 258 mL | C(C)(=O)O | C2H4O2
product | 4-bromo-3-chloro-2-nitroaniline | 4.78 g, 67% | BrC1=C(C(=C(N)C=C1)[N+](=O)[O-])Cl | C6H4BrClN2O2
